US04863959
A mixture of 1.65 mL of Br2, 2 mL of H2O and 5 g of 4-amino-2,5-difluorobenzonitrile in 50 mL of AcOH is stirred at 20°-25° for 16 hours. The solvents are removed in vacuo and the residue partitioned between 100 mL of H2O and 3×200 ml of CH2Cl2. The CH2Cl2 extracts are washed with H2O, saturated NaHCO3, H2O (100 mL each), dried with Na2SO4 and evaporated in vacuo to give 6.89 g of crude 4-amino-3-bromo-2,5-difluorobenzonitrile. This is purified by dry-column chromatography using SiO2 to give 5.38 g (71% yield). Recrystallization from CH2Cl2 /hexane affords analytically pure material, m.p. 106°-108° C.

reactant | Br2 | 1.65 mL | BrBr | Br2
reactant | H2O | 2 mL | O | H2O
reactant | 4-amino-2,5-difluorobenzonitrile | 5 g | NC1=CC(=C(C#N)C=C1F)F | C7H4F2N2
solvent | AcOH | 50 mL | CC(=O)O | C2H4O2
product | 4-amino-3-bromo-2,5-difluorobenzonitrile | 6.89 g, 71% yield | NC1=C(C(=C(C#N)C=C1F)F)Br | C7H3BrF2N2
